US08404722B2
Preparation of 2-chloro-N-(4-(((2-oxo-1-phenylpropyl)amino)carbonyl)phenyl)benzamide (32b):
a mixture of 2-chloro-N-(4-(((2-hydroxy-1-phenylpropyl)amino) carbonyl)phenyl)benzamide (294 mg, 719 μmol) and Dess-Martin periodinane (335 mg, 791 μmol) in 5 mL dichloromethane+1 mL DMF was stirred at room temperature for 2 hours then diluted with 20 mL ethyl acetate and washed with 10 mL each water and brine. The organic layer was stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a yellow solid. The solid was slurried in hot ethyl acetate and left to equilibrate to room temperature. After 48 h, the solid was collected by filtration, rinsing with ethyl acetate and drying over a stream of air (200 mg, 68%). ESI+ m/z=407.0 [MH]+.

reactant | 2-chloro-N-(4-(((2-hydroxy-1-phenylpropyl)amino) carbonyl)phenyl)benzamide | 719 μmol, 294 mg | ClC1=C(C(=O)NC2=CC=C(C=C2)C(=O)NC(C(C)O)C2=CC=CC=C2)C=CC=C1 | C23H21ClN2O3
reactant | Dess-Martin periodinane | 791 μmol, 335 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-(4-(((2-oxo-1-phenylpropyl)amino)carbonyl)phenyl)benzamide | ClC1=C(C(=O)NC2=CC=C(C=C2)C(=O)NC(C(C)=O)C2=CC=CC=C2)C=CC=C1 | C23H19ClN2O3
